US07687491B2
(25d) Methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 23 (23g) using {5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methanol (0.15 g, 0.40 mmol) that was obtained in Example 25 (25c), carbon tetrabromide (0.27 g, 0.80 mmol), triphenylphosphine (0.21 g, 0.80 mmol), methyl 3-azetidinecarboxylate hydrochloride (91 mg, 0.60 mmol) and N,N-diisopropylethylamine (0.21 ml, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1 to 2:1 or 3:1) as the eluent to afford the title compound (0.16 g) in a yield of 83% as a pale yellowish oily product.

reactant | {5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methanol | 0.40 mmol, 0.15 g | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1CC)CO | C20H22ClN3O2
reactant | carbon tetrabromide | 0.80 mmol, 0.27 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.80 mmol, 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.60 mmol, 91 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methyl)azetidine-3-carboxylate | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1CC)CN1CC(C1)C(=O)OC | C25H29ClN4O3
